Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:8],4.44876281305
[C:1]#[C:2].[C:3](=[O:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]#[C:2][C:3](=[O:4])[C:5]([H:6])([H:7])[O:8][H:9],-4.8086699993
[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-9.07110724
[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([O:5][C:6][H:7])=[C:9]([H:10])[H:11].[H:8],4.19679550551
[C:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1].[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],6.923287783889999
[C:1].[C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-6.473814658539999
[H:1][C:2](=[C:3])[C:13]([C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])([H:14])[H:15]>>[H:1][C:2]1[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15],-1.7525101393400002
[H:13].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[O:14][H:15]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-4.22411008717
[O:1]=[C:2]([H:3])/[C:4]([C:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5][H:6].[O:1]=[C:2]([H:3])/[C:4]=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12],5.8906660548300005
[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.19652357745
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16].[H:1],3.80743248042
[C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-5.46446704018
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:7]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-4.2088410382699974
[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.85052158847
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-1.92028990696
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13].[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.62843203478
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-1.88068333862
[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:4]([H:5])=[C:6]([H:7])[O:8][H:9].[O:1][C:2][C:3],5.47988823369
[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-3.27662874951
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9][H:10]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.66277403012
[C:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[O:2].[C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.01540060235
[H:1]/[C:2](=[C:3](/[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2][C:13]([H:14])([H:15])[H:16],6.5964303
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[O:9][H:10]>>[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[O:9][H:10].[H:1][C:2],7.57141702732
[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-4.3770001372500005
[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3].[O:4]=[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],0.74753564269
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10]([H:11])([H:12])[H:13],-4.14336503355
[C:2]#[C:3][C:4]([H:5])([H:6])[H:7].[O:1]>>[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],-6.9851801397000015
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:5],4.11957559025
